US04215122
(a) Production of the starting material: 2-dimethylamino-4-ethylmercaptomethyl-6-hydroxy-pyrimidine.
47.9 g of dimethylguanidine sulfate was added in portions, at room temperature, to a solution of 8.1 g of sodium in 300 ml of abs. ethanol. The mixture obtained was stirred for one hour at room temperature, and was subsequently refluxed for a further 30 minutes. After cooling, there was added dropwise 62.0 g of γ-ethylmercaptoacetoacetic acid methyl ester, and the resulting reaction mixture was refluxed for 24 hours. The reaction mixture obtained was cooled and subsequently poured into ice/water, and the pH was adjusted to 7. After extraction of the reaction mixture with methylene chloride, the organic phase was dried over Na2SO4 ; the solvent was then distilled off, and the resulting crude product was recrystallised from water to thus yield 2-dimethylamino-4-ethylmercaptomethyl-6-hydroxy-pyrimidine in the form of colourless crystals having a melting point of 119°-121° C.

reactant | dimethylguanidine sulfate | 47.9 g | S(=O)(=O)(O)O.CNC(NC)=N
reactant | sodium | 8.1 g | [Na] | Na
reactant | γ-ethylmercaptoacetoacetic acid methyl ester | 62.0 g | COC(CC(=O)CSCC)=O | C7H12O3S
reactant | ethanol | C(C)O | C2H6O
product | 2-dimethylamino-4-ethylmercaptomethyl-6-hydroxy-pyrimidine | CN(C1=NC(=CC(=N1)CSCC)O)C | C9H15N3OS
